US07981903B2
1-(1-methylethyl)-4-[3-(methyloxy)-4-nitrophenyl]hexahydro-1H-1,4-diazepine (0.565 g, 1.92 mmol) was suspended in 5 mL THF and 10 mL MeOH. NiCl2-6H2O (138 mg, 0.576 mmol) was added followed by slow addition of NaBH4 (218 mg, 5.76 mmol). The reaction mixture was adsorbed on SiO2 and purified via column chromatography to afford 4-[4-(1-methylethyl)hexahydro-1H-1,4-diazepin-1-yl]-2-(methyloxy)aniline (364 mg, 1.38 mmol). 1H NMR (400 MHz, DMSO-d6)δ ppm 0.89-1.06 (m, 6 H) 1.71-1.88 (m, 2 H) 2.69 (br. s., 2 H) 2.81-2.97 (m, 1 H) 3.23-3.47 (m, 6H) 3.66-3.77 (m, 3 H) 3.82-4.27 (m, 2 H) 6.08 (br. s., 1 H) 6.25 (br. s., 1 H) 6.49 (br. s., 1 H). ESIMS (M+H)+=264.

reactant | 1-(1-methylethyl)-4-[3-(methyloxy)-4-nitrophenyl]hexahydro-1H-1,4-diazepine | 1.92 mmol, 0.565 g | CC(C)N1CCN(CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C15H23N3O3
reactant | NaBH4 | 5.76 mmol, 218 mg | [BH4-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | 4-[4-(1-methylethyl)hexahydro-1H-1,4-diazepin-1-yl]-2-(methyloxy)aniline | 1.38 mmol, 364 mg | CC(C)N1CCN(CCC1)C1=CC(=C(N)C=C1)OC | C15H25N3O
